US08247556B2
4-Iodo-1H-pyrazolo[3,4-b]pyridine (802 mg, 3.27 mmol) was dissolved in DMSO (10 mL) then added p-toluenesulfinic acid, sodium salt (583 mg, 3.27 mmol) and KCN (319 mg, 4.90 mmol). The reaction was heated at 100° C. for 18 h. The mixture was diluted with water and extracted with EtOAc. The organic layer was washed with brine and dried over MgSO4 to yield 1H-pyrazolo[3,4-b]pyridine-4-carbonitrile as a light orange solid.

reactant | 4-Iodo-1H-pyrazolo[3,4-b]pyridine | 3.27 mmol, 802 mg | IC1=C2C(=NC=C1)NN=C2 | C6H4IN3
reactant | p-toluenesulfinic acid | C1(=CC=C(C=C1)S(=O)O)C | C7H8O2S
reactant | sodium | 3.27 mmol, 583 mg | [Na] | Na
reactant | KCN | 4.90 mmol, 319 mg | [C-]#N.[K+]
solvent | DMSO | 10 mL | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | 1H-pyrazolo[3,4-b]pyridine-4-carbonitrile | N1N=CC2=C1N=CC=C2C#N | C7H4N4
